US07189739B2
H. 1-(3-benzylaminopropionyl)-(4benzylpiperidinyl)-indole-5-carboxamide
was prepared by reacting 1-acryloyl-(4-benzylpiperidinyl)-indole-5-carboxamide with benzylamine. M+ 479.

reactant | 1-acryloyl-(4-benzylpiperidinyl)-indole-5-carboxamide | C(C=C)(=O)N1C(=CC2=CC(=CC=C12)C(=O)N)N1CCC(CC1)CC1=CC=CC=C1 | C24H25N3O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 1-(3-benzylaminopropionyl)-(4benzylpiperidinyl)-indole-5-carboxamide | C(C1=CC=CC=C1)NCCC(=O)N1C(=CC2=CC(=CC=C12)C(=O)N)N1CCC(CC1)CC1=CC=CC=C1 | C31H34N4O2
